US07326791B2
3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-{(2R)-2-[(3-ethyl-ureido)methyl]pyrrolidin-1-ylcarbonyl}benzamide
200 mg (0.3 mmol) of 4-[(2R)-2-aminomethylpyrrolidin-1-ylcarbonyl]-3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]benzamide, 26 mg (0.36 mmol) of ethyl isocyanate, and 0.2 mL (1.2 mmol) of triethylamine are stirred for 16 hours at ambient temperature in 20 mL of tetrahydrofuran. Then the solvent is distilled off and the residue is chromatographed on silica gel, eluting with dichloromethane/ethanol (9:1). Yield: 140 mg (86%); Rf value: 0.38 (silica gel; dichloromethane/ethanol=9:1); C25H28Cl2N6O3 (531.44); mass spectrum: (M+H)+=531/533 (chlorine isotope) and (M−H)−=529/531 (chlorine isotope).

reactant | 4-[(2R)-2-aminomethylpyrrolidin-1-ylcarbonyl]-3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]benzamide | 0.3 mmol, 200 mg | NC[C@@H]1N(CCC1)C(=O)C1=C(C=C(C(=O)N[C@@H](C)C2=NC3=C(N2)C=CC(=C3)Cl)C=C1)Cl | C22H23Cl2N5O2
reactant | ethyl isocyanate | 0.36 mmol, 26 mg | C(C)N=C=O | C3H5NO
reactant | triethylamine | 1.2 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-{(2R)-2-[(3-ethyl-ureido)methyl]pyrrolidin-1-ylcarbonyl}benzamide | ClC=1C=C(C(=O)N[C@@H](C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1[C@H](CCC1)CNC(=O)NCC | C25H28Cl2N6O3
